### PR TITLE
feat(ErdosProblems): 848

### LINKED ISSUE #974: Erdős Problem 848
### What is the conjecture

https://www.erdosproblems.com/848

  Let $N$ be a large integer. Is the maximum size of a set $A\subseteq \\{1,\ldots,N\\}$ such that $ab+1$ is never squarefree (for all $a,b\in A$) achieved by taking those $n\equiv 7\pmod{25}$?

Status:  main problem solved, variants open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #1920: Erdős Problem #848 - Formalization Available
I have a complete Lean 4 formalization of Erdős Problem #848 (Sawhney-Sellke stability theorem, 2025).

**Problem Statement:**
For sufficiently large N, any set A ⊆ {1,...,N} such that ab+1 is never squarefree (for all a,b ∈ A) has |A| ≤ |{n ≡ 7 (mod 25)}|.

**Formalization:**
- Formalizes `∃ N₀, ∀ N ≥ N₀, Problem848Statement N` (matching Sawhney's "sufficiently large N" result)
- Full proof: ~3900 lines, compiles with 0 errors, no sorries
- Also includes finite verification for N=50 and N=100

**Source:** https://github.com/The-Obstacle-Is-The-Way/erdos-banger/blob/main/formal/lean/Erdos/Problem848_FINAL.lean

**References:**
- https://www.erdosproblems.com/848 (currently shows "Formalised statement? No")
- Sawhney-Sellke paper: https://arxiv.org/abs/2511.16072

**Question:** Would you be interested in adding this to `FormalConjectures/ErdosProblems/`? I'm happy to adapt to your style guidelines (adding category/AMS attributes, copyright header, etc.). 

The full proof may be too lengthy for this repo per your guidelines - let me know if you'd prefer just the statement with a reference to the complete proof.

### PR DESCRIPTION
**Pull request by The-Obstacle-Is-The-Way**
Closes #1920

fixes #974

Adds formalization of Erdős Problem 848 (Sawhney-Sellke 2025).

A complete Lean 4 proof (3887 lines, 0 sorries) is linked in the `@[category research formally solved using lean4 at ...]` attribute.

### CODE REVIEW

**Comment by felixpernegger** [comment]
The erdos problem asks if thus holds for all numbers, not just almost all.
What is the value of N0? that would be interesting.

**Comment by felixpernegger** [comment]
I didnt look at your proof in great detail, but I noticed it uses native_decide multiple times, which should heavily be avoided.

**Comment by felixpernegger** [comment]
There are also comments on your comment on the website, whuch need to be adressed first.

**Comment by The-Obstacle-Is-The-Way** [comment]
@felixpernegger Thank you for your feedback, I will do my best to address all issues as recommended.

**Comment by The-Obstacle-Is-The-Way** [comment]
Refactored proof now available and all `native_decide` instances have been removed.

**On N₀:** The existential form (`∃ N₀, ∀ N ≥ N₀, ...`) is faithful to Sawhney's paper, which proves existence without computing the explicit threshold. Effectivizing the bounds would be a separate contribution.

**On website comments:** Addressed the circularity concern (it was a misreading of Lean's lemma parameter pattern). The proof structure is: define `SawhneyMain` → prove it in 2000+ lines → use it in final theorem.

Updated proof: https://github.com/The-Obstacle-Is-The-Way/erdos-banger/blob/main/formal/lean/Erdos/Problem848.lean

**Comment by felixpernegger** [comment]
Your formilastion is _probably alright_. This is an impressive feat.
image
On the other hand, I highly recommend you simplify it and make it readable. (Look at the image for example).
If its completely undocumented, it is not readable (which isnt totally necessary in my opinion but still good to have).
At the very least, its crucial you make clear what all _definitions_ are saying, which is not the case right now.

An exact value of ```N0``` can likely be obtained quite easily by inspecting the code (from what I have seen by it), maybe you can try to find it out (it depends when some inequalities hold eventually for prime counting function if I see correctly, which is likely known).

Finally, the proof (at least in Lean) as it is, does not prove 848 and does not make it "Decidable" or something either. Therefore I for this PR to be merged, you need to include erdos orginal problem and mark the thing you formalised as a partial result or something.

**Comment by felixpernegger** [comment]
> **On N₀:** The existential form (`∃ N₀, ∀ N ≥ N₀, ...`) is faithful to Sawhney's paper, which proves existence without computing the explicit threshold. Effectivizing the bounds would be a separate contribution.
> 
> **On website comments:** Addressed the circularity concern (it was a misreading of Lean's lemma parameter pattern). The proof structure is: define `SawhneyMain` → prove it in 2000+ lines → use it in final theorem.

Finally (I apologise if I am wrong), I really dislike when something gets reviewed in this PR and the author responds with a text written by AI and very plausibly does not understand the statement/proofs themselves. This happens quite often.

**Comment by mo271** [comment]
I think here we should focus on reviewing the formalisation on the *statement* of 848. (Then of course possibly also decide on if the link provided is a proof of that statement or one that is equivalent, but this is secondary)

**Comment by The-Obstacle-Is-The-Way** [comment]
@felixpernegger 
Thank you for the detailed feedback. 
                                                                
This formalizes Sawhney's theorem, which the community considers the resolution of Problem 848 (hence the "decidable"  status on erdosproblems.com). I can update the PR description to clarify that it's the asymptotic result.                              

On readability: noted, I'll continue improving.                
On N₀: Sawhney noted that effectivizing the bounds would be non-trivial work.                                               
On AI: I've done my best to be transparent from the start. I'm learning as I go; the Lean compiler verifies correctness. 

Sincerely appreciate the review.

**Comment by felixpernegger** [comment]
In this repository, we try to accurately record the formal statements of conjectures (and known results). If they are solved partial or related results, they are usually included.

In your case, this PR _only_ includes the partial result but not the statement of the original (still unresolved) conjecture.

**Comment by The-Obstacle-Is-The-Way** [comment]
Updated to include both:

1. `erdos_848` - the original conjecture (for all N) marked `@[category research open]`
2. `erdos_848_asymptotic` - Sawhney's result (for N ≥ N₀) marked `@[category research formally solved]`

This follows the pattern used in other Erdős problems with partial results (e.g., 951, 996).

File: FormalConjectures/ErdosProblems/848.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+-/
+
+namespace Erdos848
+
+/-- A set A has the non-squarefree product property if ab + 1 is not squarefree
+for all a, b ∈ A. -/
+def NonSquarefreeProductProp (A : Finset ℕ) : Prop :=
+  ∀ a ∈ A, ∀ b ∈ A, ¬Squarefree (a * b + 1)
+
+/-- The candidate extremal set: {n ∈ {0, …, N-1} : n ≡ 7 (mod 25)}. -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
/-- The candidate extremal set: $\{n ∈ \{0, \dots, N-1\} : n ≡ 7 (mod 25)\}$. -/
```

File: FormalConjectures/ErdosProblems/848.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- The Erdős Problem 848 statement for a fixed N: any set A ⊆ {0, …, N-1} with
+the non-squarefree product property has cardinality at most |A₇(N)|. -/
+def Problem848Statement (N : ℕ) : Prop :=
+  ∀ A : Finset ℕ, A ⊆ Finset.range N → NonSquarefreeProductProp A →
+    A.card ≤ (A₇ N).card
+
+/-- **Erdős Problem 848 (Original)**
+
+Is the maximum size of a set A ⊆ {1, …, N} such that ab + 1 is never squarefree
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
Is the maximum size of a set $A ⊆ {1, \dots, N}$ such that $ab + 1$ is never squarefree
```

Comment (mo271) [reply FormalConjectures/ErdosProblems/848.lean]: also similarly with `$` in other parts, usual Latex markdown. In doubt click on "View the LaTeX source" on erdosproblems.com

File: FormalConjectures/ErdosProblems/848.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+is never squarefree for all a, b ∈ A, then |A| ≤ |{n ≤ N : n ≡ 7 (mod 25)}|.
+
+More precisely, Sawhney proves: there exist absolute constants η > 0 and N₀
+such that for all N ≥ N₀, if |A| ≥ (1/25 - η)N then A ⊆ {n : n ≡ 7 (mod 25)} or
+A ⊆ {n : n ≡ 18 (mod 25)}.
+
+A complete formal Lean 4 proof (0 sorries) is available at:
+https://github.com/The-Obstacle-Is-The-Way/erdos-banger -/
+@[category research formally solved using lean4 at "https://github.com/The-Obstacle-Is-The-Way/erdos-banger/blob/main/formal/lean/Erdos/Problem848.lean", AMS 11]
+theorem erdos_848_asymptotic : ∃ N₀ : ℕ, ∀ N ≥ N₀, Problem848Statement N := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
theorem erdos_848_asymptotic : ∀ᶠ N in Filter.atTop, Problem848Statement N := by
```

File: FormalConjectures/ErdosProblems/848.lean [hunk 4]
```diff
@@ -0,0 +1,77 @@
...
+    A.card ≤ (A₇ N).card
+
+/-- **Erdős Problem 848 (Original)**
+
+Is the maximum size of a set A ⊆ {1, …, N} such that ab + 1 is never squarefree
+(for all a, b ∈ A) achieved by taking those n ≡ 7 (mod 25)?
+
+This asks whether `Problem848Statement N` holds for all N. -/
+@[category research open, AMS 11]
+theorem erdos_848 : ∀ N, Problem848Statement N := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
theorem erdos_848 : answer(sorry) ↔ ∀ N, Problem848Statement N := by
```

This is how we usually do it for questions

**Review by mo271 — COMMENTED** [review]
Thanks for the formalisation of the statement(s)!
And congrats again on the (formalised) proof for sufficiently large $N$!

I only left a few comments, more of cosmetic nature...

File: FormalConjectures/ErdosProblems/848.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+def NonSquarefreeProductProp (A : Finset ℕ) : Prop :=
+  ∀ a ∈ A, ∀ b ∈ A, ¬Squarefree (a * b + 1)
+
+/-- The candidate extremal set: {n ∈ {0, …, N-1} : n ≡ 7 (mod 25)}. -/
+def A₇ (N : ℕ) : Finset ℕ :=
+  (Finset.range N).filter (fun n => n % 25 = 7)
+
+/-- The Erdős Problem 848 statement for a fixed N: any set A ⊆ {0, …, N-1} with
+the non-squarefree product property has cardinality at most |A₇(N)|. -/
+def Problem848Statement (N : ℕ) : Prop :=
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
def Erdos848 (N : ℕ) : Prop :=
```
this is the usual style

**Comment by The-Obstacle-Is-The-Way** [comment]
Thanks @mo271 and @felixpernegger. Applied all suggestions. Let me know if I missed anything.

File: FormalConjectures/ErdosProblems/848.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+def statement (N : ℕ) : Prop :=
+  ∀ A : Finset ℕ, A ⊆ Finset.range N → NonSquarefreeProductProp A →
+    A.card ≤ (A₇ N).card
+
+end Erdos848
+
+/-- The Erdős Problem 848 statement for a fixed $N$: any set $A ⊆ \{0, \dots, N-1\}$ with
+the non-squarefree product property has cardinality at most $|A₇(N)|$. -/
+def Erdos848 (N : ℕ) : Prop :=
+  Erdos848.statement N
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/848.lean]: The ```Erdos848``` is redundant here, remove it and rename ```statement``` to ```Erdos848```

File: FormalConjectures/ErdosProblems/848.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+  (Finset.range N).filter (fun n => n % 25 = 7)
+
+/-- The Erdős Problem 848 statement for a fixed $N$: any set $A ⊆ \{0, \dots, N-1\}$ with
+the non-squarefree product property has cardinality at most $|A₇(N)|$. -/
+def Erdos848 (N : ℕ) : Prop :=
+  ∀ A : Finset ℕ, A ⊆ Finset.range N → NonSquarefreeProductProp A →
+    A.card ≤ (A₇ N).card
+
+/-- **Erdős Problem 848 (Original)**
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
/-- 
```

File: FormalConjectures/ErdosProblems/848.lean [hunk 8]
```diff
@@ -0,0 +1,77 @@
...
+Is the maximum size of a set $A ⊆ \{1, \dots, N\}$ such that $ab + 1$ is never squarefree
+(for all $a, b ∈ A$) achieved by taking those $n ≡ 7 \pmod{25}$?
+
+This asks whether `Erdos848 N` holds for all $N$ (formulated using `A ⊆ Finset.range N`). -/
+@[category research open, AMS 11]
+theorem erdos_848 : answer(sorry) ↔ ∀ N, Erdos848 N := by
+  sorry
+
+/-- **Erdős Problem 848 (Sawhney 2025, Asymptotic)**
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
/--
```

File: FormalConjectures/ErdosProblems/848.lean [hunk 9]
```diff
@@ -0,0 +1,77 @@
...
+There exists $N₀$ such that for all $N ≥ N₀$, if $A ⊆ \{1, \dots, N\}$ satisfies that $ab + 1$
+is never squarefree for all $a, b ∈ A$, then $|A| ≤ |\{n ≤ N : n ≡ 7 \pmod{25}\}|$.
+
+More precisely, Sawhney proves: there exist absolute constants $η > 0$ and $N₀$
+such that for all $N ≥ N₀$, if $|A| ≥ (1/25 - η)N$ then $A ⊆ \{n : n ≡ 7 \pmod{25}\}$ or
+$A ⊆ \{n : n ≡ 18 \pmod{25}\}$.
+
+A complete formal Lean 4 proof (0 sorries) is available at:
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
A complete formal Lean 4 proof is available at:
```

File: FormalConjectures/ErdosProblems/848.lean [hunk 10]
```diff
@@ -0,0 +1,77 @@
...
+https://github.com/The-Obstacle-Is-The-Way/erdos-banger -/
+@[category research formally solved using lean4 at "https://github.com/The-Obstacle-Is-The-Way/erdos-banger/blob/main/formal/lean/Erdos/Problem848.lean", AMS 11]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/848.lean]:
```suggestion
@[category research formally solved using lean4 at "https://github.com/The-Obstacle-Is-The-Way/erdos-banger/blob/08733c26a613ef2cc17cfc9ca2bad81976115a82/formal/lean/Erdos/Problem848.lean#L5565C52-L5565C71", AMS 11]
```
what is in `main` can change, let's link to a specific commit instead. (You can update it, if you want to later link to a different version. You can try to adapt it to a proof that works exactly with the definitions here, and then use `category research formally solved using formal-conjectures at "..."` later

Comment (The-Obstacle-Is-The-Way) [reply FormalConjectures/ErdosProblems/848.lean]: Updated to specific commit (e5887cdd) with refactored version. Will continue improving as suggested. Thanks!
